* TIP145/146/147 PNP EPITAXIAL SILICON DARLINGTON TRANSISTOR ELECTRICAL PARAMETER
* ===============================================================================
* Complement to TIP140 / TIP141 / TIP142  Respectively
* ===============================================================================
* Vbeo & Vceo: TIP145(-60V) / TIP146(-80V) / TIP147(-100V) 
* ===============================================================================
* Connections:    Collector 1   Base 2  Emitter 3
* ===============================================================================
.SUBCKT TIP145/146/147     1  2  3  
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model 5.845
D1 1 3   Dmodel
R1 2 4   8.000E3
R2 4 3   120
.MODEL Dmodel D
+  IS=2.896E-18         RS=1.000E-6         N=0.1001 
+  CJO=5.833E-10        VJ=0.7067           M=0.321 
+  FC=0.5
.MODEL Q1model PNP
+  IS=1.832E-13         BF=6.370E3          NF=1 
+  VAF=75.95            IKF=1.199           ISE=1.907E-12
+  NE=1.334             BR=.1769            NR=1
+  VAR=100              IKR=11.87           ISC=9.990E-6
+  NC=1.051             RB=12.43            NK=0.5279
+  RE=0.001             RC=0.17             EG=1.110
+  CJE=3.647E-10        VJE=0.8826          MJE=0.3255 
+  CJC=3.964E-10        VJC=0.6635          MJC=0.2578 
+  XCJC=0.469           FC=0.5
.MODEL Q2model PNP
+  IS=1.832E-13         BF=6.370E3          NF=1 
+  VAF=75.95            IKF=1.199           ISE=1.907E-12
+  NE=1.334             BR=.1769            NR=1
+  VAR=100              IKR=11.87           ISC=9.990E-6
+  NC=1.051             RB=12.43            NK=0.5279
+  RE=0.001             RC=0.17             EG=1.110
+  CJE=3.647E-10        VJE=0.8826          MJE=0.3255 
+  CJC=3.964E-10        VJC=0.6635          MJC=0.2578 
+  XCJC=0.469           FC=0.5
.ENDS TIP145/146/147
* ==============================================================================
* FAIRCHILD      CASE: TO-3P      PID: TIP145/146/147
* FEB-28-2001 CREATION  